Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Gait instability with hydrocephalus
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ (ambidextrous) PMHx HLD who presents to the 
ED ___ per her outpatient neurologist's referral for evaluation 
of hydrocephalus.

Pt reports that she has not been able to walk properly for ___ 
year. This has been gradually worsening. She first noticed that 
her legs felt weak and she was having difficultly getting out of 
a chair. She then felt a sense of disequilibrium and like she 
was off balance when walking. She started falling. She is now 
walking with a cane, by holding onto furniture/objects and with 
the assistance of her husband. She is currently falling daily. 
She denies recent head injury.

She initially saw her PCP with this issue who recommended a 
___. This was done ___ and revealed moderate 
ventriculomegaly with cortical atrophy. She was then referred to 
neurology (she saw Dr. ___ in ___. An MRI brain done 
___ revealed enlargement of third, fourth and lateral ventricles 
and moderate diffuse cortical atrophy.

Pt's husband has been assisting her with all of her ADLs at 
home. A ___ and physical therapy have been working with her at 
home. On the day of presentation, pt states she was referred in 
by her neurologist after her ___ therapy grew concerned 
about home safety due to her increasing frequency of falls.

At the time of my assessment, pt reports weakness in her R arm 
and leg that has been ongoing for ___ year. She denies any memory 
or attention issues. She enjoys doing crossword puzzles and has 
not had any difficulty with this. Her husband denies any 
personality change. She stopped driving about ~1 month ago due 
to trouble getting into and out of the car but denies getting 
lost. She denies any bowel or bladder incontinence. She denies 
any headaches or speech difficulties. 

Otherwise, she has never traveled outside the country apart from 
___. She has not has any recent fevers or viral illnesses. 
She last had a mammogram > ___ years ago and never had a 
colonoscopy.

On neurologic review of systems, the patient denies headache, 
lightheadedness, or confusion. Denies difficulty with producing 
or comprehending speech. Denies loss of vision, blurred vision, 
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or 
dysphagia. Denies bowel or bladder incontinence or retention. 

On general review of systems, the patient denies fevers, chest 
pain, palpitations, cough, nausea, vomiting, diarrhea, 
constipation, abdominal pain, dysuria or rash.
 
Past Medical History:
HLD
Anxiety
 
Social History:
___
Family History:
No family history of neurological disorders, cancer or 
auto-immune disorders.
 
Physical Exam:
ADMISSION EXAM:
Vitals: 100.3 83 143/75 16 100% RA 
General: NAD, resting comfortably, well-appearing
HEENT: NCAT, no oropharyngeal lesions
Neck: Supple
___: RRR
Pulmonary: CTAB
Abdomen: Soft, NT, ND
Extremities: Warm, no edema
Skin: No rashes or lesions

Neurologic Examination:
- Mental Status - Awake, alert, oriented to person, place and
time. Attention to examiner easily maintained. Able to state ___
backwards but is slow. Recalls a coherent history. Able to
describe current events. Speech is fluent with full sentences,
intact repetition, and intact verbal comprehension. Content of
speech demonstrates intact naming (high and low frequency) and 
no
paraphasias. Normal prosody. No evidence of hemineglect. No
left-right agnosia.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling.
EOMI, ___ beats of endgaze nystagmus bilaterally. V1-V3 without
deficits to light touch bilaterally. No facial movement
asymmetry. Hearing intact to finger rub bilaterally.  Palate
elevation symmetric. No dysarthria. Trapezius strength ___
bilaterally. Tongue midline.

- Motor - Normal bulk. Increased tone in ___ bilaterally. No
drift. No tremor or asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  4-   ___  5  4+ ___    4  5     5     4+

- Sensory - Decreased sensation to light touch in R arm and leg
(~80% relative to torso and L body). Proprioception (at great
toe) and vibration intact.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response extensor on the L and flexor on the R.

- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait - Cannot stand unassisted. Negative Romberg. Takes short
wide based steps with assistance. +retropulsion.

 
Pertinent Results:
ADMISSION LABS: ___
WBC-6.3 Hgb-12.4 Hct-37.8 Plt ___
Neuts-46.4 ___ Monos-8.3 Eos-1.4 Baso-0.6 Im ___ 
AbsNeut-2.91 AbsLymp-2.70 AbsMono-0.52 AbsEos-0.09 AbsBaso-0.04
___ PTT-30.3 ___
Glucose-102* UreaN-9 Creat-0.4 Na-140 K-4.7 Cl-102 HCO3-30 
AnGap-13
Albumin-4.4 Calcium-9.4 Phos-3.6 Mg-2.2
ALT-16 AST-28 AlkPhos-95 TotBili-0.4 Lipase-55
cTropnT-<0.01
VitB12-1147*

UA: Bland

Imaging:
MRI Head w/wo contrast:
IMPRESSION: 
Ventriculomegaly which appears to be secondary to atrophic 
changes affecting the body of the corpus callosum.  The 
differential diagnostic considering include conditions affecting 
the body of corpus callosum such as ___ disease, 
Susac disease or remote corpus callosum infarct or 
demyelination.  The appearance is not typical for normal 
pressure hydrocephalus or obstructive hydrocephalus.  No mass 
lesion identified.

MRI C-spine w/o contrast
IMPRESSION:
1. Motion artifact which degrades spatial resolution, 
particularly on the
sagittal STIR sequence.
2. Multilevel cervical spondylosis, as described, most advanced 
at C5-C6 where there is moderate to severe spinal canal stenosis 
which contacts mildly deforms the cord without associated cord 
signal abnormality.  No evidence of cord contusion, edema, or 
myelomalacia.
3. Multilevel neural foraminal stenoses a most advanced at right 
C5-C6 where there is severe stenosis.
 
Brief Hospital Course:
___ was admitted to the general neurology service due 
to her progressive gait disturbance and frequent falls. On 
neurologic examination she was found to have frontal release 
signs, difficulty with Luria sequencing and mirroring on the 
left greater than the right, a mild anomia and impaired word 
generation fluency. Her motor examination was notable for 
bilateral C5 weakness and an upper motor neuron pattern of 
weakness with increased tone in the legs and an upgoing left 
toe. She had no urinary symptoms. An MRI brain showed atrophy 
which was most prominent in the corpus callosum, frontal and 
temporal lobes; MRI of the cervical spine showed multilevel 
cervical spine disease with deformation of the cord but no 
signal change. Overall, her symptoms were not consistent with 
NPH and were thought to be multifactorial, with a 
neurodegenerative process, most concerning for frontotemporal 
dementia and causing a frontal gait disorder, as well as 
cervical spondylosis causing lower extremity rigidity and 
weakness. As her imaging and examination were not consistent 
with NPH, no lumbar puncture was performed.

During her admission, her husband shared that she had had 
paranoid thoughts and behaviors at home, and he was concerned 
for her safety at home alone. He did not think that she had any 
thoughts of self harm, however. On the day of discharge, the 
patient became agitated and demanded discharge. At that time the 
only intervention pending was a ___ assessment. She declined the 
___ assessment. We spoke with her outpatient neurologist about 
our findings and concerns; she was started on Seroquel QHS and 
discharged with a plan for outpatient neurology follow up within 
the next week to arrange further assessment. She will continue 
her home ___ services. Her husband was in agreement with this 
plan.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Simvastatin 40 mg PO QPM 
2. PARoxetine 20 mg PO DAILY 

 
Discharge Medications:
1. PARoxetine 20 mg PO DAILY 
2. Simvastatin 40 mg PO QPM 
3. QUEtiapine Fumarate 12.5 mg PO QHS 
RX *quetiapine 25 mg 0.5 (One half) tablet(s) by mouth at 
bedtime Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
multifactorial gait disorder
cervical spondylosis
concern for progressive cognitive disorder

 
Discharge Condition:
Awake, alert, agitated. 
Ambulatory, refuses ___ assessment.

 
Discharge Instructions:
You came to the hospital in order to have an evaluation of your 
walking and strength. Here, we saw that your legs are weak and 
stiff, which we believe is because of arthritis in your neck. We 
recommend that you try using a cervical collar at home while you 
are sleeping to relieve the strain on your neck.

We also saw that your memory and attention testing was not 
normal. We would like for you to follow up with your neurologist 
for further assessment. Here at ___ we can offer a full 
cognitive assessment that we would be happy to set you up with 
if you chose.
We recommended that you be seen by our physical therapists prior 
to going home, but you declined to do so. We encourage you to 
follow up with your outpatient physical therapist!
 
Followup Instructions:
___